US07507740B2
(iii) Production of ethyl 4-(4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl)benzoate
A mixture of ethyl 3-amino-5-[4-(ethoxycarbonyl)phenyl]-1H-pyrrole-2-carboxylate (3.36 g), formamidine acetate (1.74 g) and ethanol (60 mL) was heated under reflux for 15 hrs. After cooling to room temperature, the precipitated solid was collected by filtration, washed with ethanol, and dried under reduced pressure at 60° C. to give the title compound (2.97 g).

reactant | ethyl 3-amino-5-[4-(ethoxycarbonyl)phenyl]-1H-pyrrole-2-carboxylate | 3.36 g | NC1=C(NC(=C1)C1=CC=C(C=C1)C(=O)OCC)C(=O)OCC | C16H18N2O4
reactant | formamidine acetate | 1.74 g | C(C)(=O)O.C(=N)N
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | ethyl 4-(4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl)benzoate | 2.97 g | O=C1C2=C(N=CN1)C=C(N2)C2=CC=C(C(=O)OCC)C=C2 | C15H13N3O3
